US06870021B2
The synthesis is achieved in three steps. The first step is the preparation of N,N′-diphenyl formamidine (by the reaction of aniline with triethyl orthoformate). This intermediate is then further reacted with triethyl orthoformate to produce ethyl N-phenylimidoformate. The final step is the reaction of ethyl phenylimidoformate with 4-aminostyrene to give the product.

reactant | N,N′-diphenyl formamidine | C1(=CC=CC=C1)NC=NC1=CC=CC=C1 | C13H12N2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | ethyl N-phenylimidoformate | C1(=CC=CC=C1)N=COCC | C9H11NO
